US05025031
Methylsulfamic acid 2-phenoxyethyl ester
This compound was prepared according to the procedure used in Example 112. Thus, a mixture of 14.8 g (0.1 mole) of 2-phenoxyethanol (Matheson, Coleman, and Bell), 15.6 g (0.12 mole) of methylsulfamoyl chloride and 12.3 g (0.12 mole) of triethylamine in 150 ml of acetonitrile gave a viscous oil that solidified upon standing. The solid was recrystallized from benzene-petroleum ether (30°-60° C.) to yield 15.4 g (67%) of shiny, white flakes, mp 66°-68° C.

reactant | 2-phenoxyethanol | 0.1 mole, 14.8 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | methylsulfamoyl chloride | 0.12 mole, 15.6 g | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | triethylamine | 0.12 mole, 12.3 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Methylsulfamic acid 2-phenoxyethyl ester | O(C1=CC=CC=C1)CCOS(NC)(=O)=O | C9H13NO4S
